US06228877B1
ll) 3-(1-Methyl-6-nitro-1H-indol-3-yl)-4-(1-methyl-7-nitro-1H-indol-3-yl)-pyrrole-2,5-dione was prepared from (1-methyl-6-nitro-1H-indol-3-yl)-oxo-acetyl chloride and 2-(1-methyl-7-nitro-1H-indol-3-yl)-acetimidic acid isopropyl ester hydrochloride.

reactant | (1-methyl-6-nitro-1H-indol-3-yl)-oxo-acetyl chloride | CN1C=C(C2=CC=C(C=C12)[N+](=O)[O-])C(C(=O)Cl)=O | C11H7ClN2O4
reactant | 2-(1-methyl-7-nitro-1H-indol-3-yl)-acetimidic acid isopropyl ester hydrochloride | Cl.C(C)(C)OC(CC1=CN(C2=C(C=CC=C12)[N+](=O)[O-])C)=N
product | 3-(1-Methyl-6-nitro-1H-indol-3-yl)-4-(1-methyl-7-nitro-1H-indol-3-yl)-pyrrole-2,5-dione | CN1C=C(C2=CC=C(C=C12)[N+](=O)[O-])C=1C(NC(C1C1=CN(C2=C(C=CC=C12)[N+](=O)[O-])C)=O)=O | C22H15N5O6
